scheMAGIC Simulator document 81fb7aae8da609b6
* document-hash 81fb7aae8da609b6
V1 b a SIN(0 12 50) $ component:c1
D2 a vout OC_GENERIC_D $ component:c2
D3 b vout OC_GENERIC_D $ component:c3
D4 0 a OC_GENERIC_D $ component:c4
D5 0 b OC_GENERIC_D $ component:c5
R6 vout 0 1k $ component:c6
.model OC_GENERIC_D D(IS=1e-14 N=1 RS=0.1 CJO=2P)
.save all v1#branch @d2[id] @d3[id] @d4[id] @d5[id] @r6[i]
.tran 0.00002 0.06 0 0.00005
.end
