scheMAGIC Simulator document fe7b9f0fce9b586f
* document-hash fe7b9f0fce9b586f
V1 vin 0 SIN(0 10 50) $ component:c1
D2 vin vout OC_GENERIC_D $ component:c2
R3 vout 0 1k $ component:c3
.model OC_GENERIC_D D(IS=1e-14 N=1 RS=0.1 CJO=2P)
.save all v1#branch @d2[id] @r3[i]
.tran 0.00002 0.06 0 0.00005
.end
