scheMAGIC Simulator document 6ec45e2c8261b41c
* document-hash 6ec45e2c8261b41c
V1 vin 0 SIN(0 500m 1k) $ component:c1
R2 vin inv 10k $ component:c2
R3 inv vout 100k $ component:c3
X4 0 inv vout OC_IDEAL_OPAMP $ component:c4
R5 vout 0 10k $ component:c5
.subckt OC_IDEAL_OPAMP INP INN OUT
EGAIN OUT 0 INP INN 1000000
.ends OC_IDEAL_OPAMP
.save all v1#branch @r2[i] @r3[i] @r5[i]
.tran 0.000002 0.005 0 0.000005
.end
