scheMAGIC Simulator document c462025dccdb8619
* document-hash c462025dccdb8619
V1 vsupply 0 DC 5 $ component:c1
R2 vsupply anode 220 $ component:c2
D3 anode 0 OC_LED_RED $ component:c3
.model OC_LED_RED D(IS=1e-20 N=2 RS=10 EG=1.8 CJO=30P BV=5 IBV=10U)
.save all v1#branch @r2[i] @d3[id]
.dc V1 0 5 0.02
.end
