scheMAGIC Simulator document bc08222be62cb882
* document-hash bc08222be62cb882
V1 in 0 PULSE(0 1 1m 1u 1u 50m 100m) AC 1 $ component:c1
R2 in oc_ac_c2 1k $ component:c2
VOCSc2 oc_ac_c2 out 0 $ component:c2
C3 out oc_ac_c3 100n $ component:c3
VOCSc3 oc_ac_c3 0 0 $ component:c3
.save all v1#branch vocsc2#branch vocsc3#branch
.ac dec 40 10 1000000
.end
