scheMAGIC Simulator document 5379352d8f216a62
* document-hash 5379352d8f216a62
V1 vin 0 DC 5 $ component:c1
R2 vin vout 10k $ component:c2
R3 vout 0 10k $ component:c3
.save all v1#branch @r2[i] @r3[i]
.dc V1 0 5 0.05
.end
