scheMAGIC Simulator document a58e6d2f8689834a
* document-hash a58e6d2f8689834a
V1 vin 0 SIN(0 1 5k) AC 1 $ component:c1
R2 vin oc_ac_c2 100 $ component:c2
VOCSc2 oc_ac_c2 rl 0 $ component:c2
L3 rl oc_ac_c3 10m $ component:c3
VOCSc3 oc_ac_c3 vout 0 $ component:c3
C4 vout oc_ac_c4 100n $ component:c4
VOCSc4 oc_ac_c4 0 0 $ component:c4
.save all v1#branch vocsc2#branch vocsc3#branch vocsc4#branch
.ac dec 40 100 1000000
.end
