scheMAGIC Simulator document 83fa2bfef9ceed32
* document-hash 83fa2bfef9ceed32
* catalog-only timer_555 1 awaiting its catalog package model $ component:c1
V2 vcc 0 DC 9 $ component:c2
R4 vcc discharge 10k $ component:c4
R5 discharge timing 330k $ component:c5
C6 timing 0 1u $ component:c6
C7 n1 0 10n $ component:c7
R8 out n2 1k $ component:c8
D9 n2 0 OC_LED_RED $ component:c9
.model OC_LED_RED D(IS=1e-20 N=2 RS=10 EG=1.8 CJO=30P BV=5 IBV=10U)
.save all v2#branch @r4[i] @r5[i] @c6[i] @c7[i] @r8[i] @d9[id]
.tran 0.0005 1.5 0 0.001
.end
