scheMAGIC Simulator document 3cf48dc60a50f06e
* document-hash 3cf48dc60a50f06e
V1 n1 0 DC 12 $ component:c1
V2 n2 0 PULSE(0 3.3 500u 10u 10u 2m 4m) $ component:c2
R3 n2 n3 100 $ component:c3
R4 n3 0 100k $ component:c4
R5 n1 n4 330 $ component:c5
D6 n4 n5 OC_LED_RED $ component:c6
D7 n5 n6 OC_LED_RED $ component:c7
D8 n6 n7 OC_LED_RED $ component:c8
M9 n7 n3 0 0 OC_GENERIC_NMOS $ component:c9
.model OC_LED_RED D(IS=1e-20 N=2 RS=10 EG=1.8 CJO=30P BV=5 IBV=10U)
.model OC_GENERIC_NMOS NMOS(LEVEL=1 VTO=2 KP=20M LAMBDA=0.02)
.save all v1#branch v2#branch @r3[i] @r4[i] @r5[i] @d6[id] @d7[id] @d8[id] @m9[id]
.tran 0.000002 0.008 0 0.00001
.end
