scheMAGIC Simulator document cfed80d93b673eef
* document-hash cfed80d93b673eef
R1T n1 n2 6300.00000000 $ component:c1
R1B n2 n3 3700.00000000 $ component:c1
R2T n4 n5 6300.00000000 $ component:c2
R2B n5 n6 3700.00000000 $ component:c2
R3T n7 n8 6300.00000000 $ component:c3
R3B n8 n9 3700.00000000 $ component:c3
R4T n10 n11 6300.00000000 $ component:c4
R4B n11 n12 3700.00000000 $ component:c4
R5T n13 n14 6300.00000000 $ component:c5
R5B n14 n15 3700.00000000 $ component:c5
R6T n16 n17 6300.00000000 $ component:c6
R6B n17 n18 3700.00000000 $ component:c6
R7T n19 n20 6300.00000000 $ component:c7
R7B n20 n21 3700.00000000 $ component:c7
R8T n22 n23 6300.00000000 $ component:c8
R8B n23 n24 3700.00000000 $ component:c8
Q9 n25 n26 n27 OC_GENERIC_NPN $ component:c9
Q10 n28 n29 n30 OC_GENERIC_NPN $ component:c10
Q11 n31 n32 n33 OC_GENERIC_NPN $ component:c11
Q12 n34 n35 n36 OC_GENERIC_NPN $ component:c12
Q13 n37 n38 n39 OC_GENERIC_NPN $ component:c13
Q14 n40 n41 n42 OC_GENERIC_NPN $ component:c14
Q15 n43 n44 n45 OC_GENERIC_NPN $ component:c15
Q16 n46 n47 n48 OC_GENERIC_NPN $ component:c16
Q17 n49 n50 n51 OC_GENERIC_PNP $ component:c17
Q18 n52 n53 n54 OC_GENERIC_PNP $ component:c18
Q19 n55 n56 n57 OC_GENERIC_PNP $ component:c19
Q20 n58 n59 n60 OC_GENERIC_PNP $ component:c20
Q21 n61 n62 n63 OC_GENERIC_PNP $ component:c21
Q22 n64 n65 n66 OC_GENERIC_PNP $ component:c22
Q23 n67 n68 n69 OC_GENERIC_PNP $ component:c23
Q24 n70 n71 n72 OC_GENERIC_PNP $ component:c24
M25 n73 n74 n75 n75 OC_GENERIC_NMOS $ component:c25
M26 n76 n77 n78 n78 OC_GENERIC_NMOS $ component:c26
M27 n79 n80 n81 n81 OC_GENERIC_NMOS $ component:c27
M28 n82 n83 n84 n84 OC_GENERIC_NMOS $ component:c28
M29 n85 n86 n87 n87 OC_GENERIC_NMOS $ component:c29
M30 n88 n89 n90 n90 OC_GENERIC_NMOS $ component:c30
M31 n91 n92 n93 n93 OC_GENERIC_NMOS $ component:c31
M32 n94 n95 n96 n96 OC_GENERIC_NMOS $ component:c32
M33 n97 n98 n99 n99 OC_GENERIC_PMOS $ component:c33
M34 n100 n101 n102 n102 OC_GENERIC_PMOS $ component:c34
M35 n103 n104 n105 n105 OC_GENERIC_PMOS $ component:c35
M36 n106 n107 n108 n108 OC_GENERIC_PMOS $ component:c36
M37 n109 n110 n111 n111 OC_GENERIC_PMOS $ component:c37
M38 n112 n113 n114 n114 OC_GENERIC_PMOS $ component:c38
M39 n115 n116 n117 n117 OC_GENERIC_PMOS $ component:c39
M40 n118 n119 n120 n120 OC_GENERIC_PMOS $ component:c40
.model OC_GENERIC_NMOS NMOS(LEVEL=1 VTO=2 KP=20M LAMBDA=0.02)
.model OC_GENERIC_NPN NPN(IS=1e-14 BF=100 VAF=100)
.model OC_GENERIC_PMOS PMOS(LEVEL=1 VTO=-2 KP=10M LAMBDA=0.02)
.model OC_GENERIC_PNP PNP(IS=1e-14 BF=100 VAF=100)
.save all @r1t[i] @r2t[i] @r3t[i] @r4t[i] @r5t[i] @r6t[i] @r7t[i] @r8t[i] @q9[ic] @q10[ic] @q11[ic] @q12[ic] @q13[ic] @q14[ic] @q15[ic] @q16[ic] @q17[ic] @q18[ic] @q19[ic] @q20[ic] @q21[ic] @q22[ic] @q23[ic] @q24[ic] @m25[id] @m26[id] @m27[id] @m28[id] @m29[id] @m30[id] @m31[id] @m32[id] @m33[id] @m34[id] @m35[id] @m36[id] @m37[id] @m38[id] @m39[id] @m40[id]
.op
.end
