* OpenCircuit self-authored compact opamp teaching macromodel
.SUBCKT OCAMP INP INN VCC VEE OUT PARAMS: GAIN=200k GBW=1Meg
RIN INP INN 2Meg
EERR NERR 0 VALUE={V(INP)-V(INN)}
GGAIN 0 NDOM VALUE={LIMIT(V(NERR)*GAIN,-1k,1k)}
CDOM NDOM 0 {GAIN/(6.283185*GBW)}
EOUT NRAW 0 VALUE={LIMIT(V(NDOM),V(VEE)+0.2,V(VCC)-0.2)}
ROUT NRAW OUT 45
DHI OUT VCC OCLIM
DLO VEE OUT OCLIM
.MODEL OCLIM D(IS=1e-15 N=1.2)
.ENDS OCAMP
