OpenCircuit factory test: AP9926 RDS(on)
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8588884285843779584
* Revision: v1.0
.model OC_ALLPOWER-SHENZHEN-QUAN-LI-SEMICONDUCTOR_AP9926 VDMOS( VTO=1.0000000000e0 KP=9.3023255814e1 THETA=0.0000000000e0 LAMBDA=3.0000000000e-3 RD=1.1825000000e-2 RS=4.3000000000e-3 RG=1.0000000000e-4 RDS=1e9 CGS=6.1500000000e-10 CGDMAX=8.5000000000e-11 CGDMIN=8.5000000000e-11 CJO=9.0000000000e-11 IS=1.0000000000e-12 N=1.5000000000e0 RB=4.3000000000e-3)

.temp 25
M1 d1 g1 0 OC_ALLPOWER-SHENZHEN-QUAN-LI-SEMICONDUCTOR_AP9926
ID1 0 d1 DC 6.5000000000e0
VG1 g1 0 DC 4.5000000000e0
.op
.end
