OpenCircuit independent review hard-bound probe
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8588919142808633344
* Revision: v1.0
.model OC_ALLPOWER-SHENZHEN-QUAN-LI-SEMICONDUCTOR_AP5N10S VDMOS( VTO=1.8000000000e0 KP=1.7391304348e1 THETA=0.0000000000e0 LAMBDA=3.0000000000e-3 RD=6.3250000000e-2 RS=2.3000000000e-2 RG=1.0000000000e-4 RDS=1e9 CGS=1.9600000000e-10 CGDMAX=1.4000000000e-11 CGDMIN=1.4000000000e-11 CJO=1.6000000000e-11 IS=1.0000000000e-12 N=1.5000000000e0 RB=2.3000000000e-2)
.temp 25
M1 d g 0 OC_ALLPOWER-SHENZHEN-QUAN-LI-SEMICONDUCTOR_AP5N10S
ID 0 d DC 3.0
VG g 0 DC 10.0
.op
.end
