* AMS1117-3.3 line-regulation endpoints within the published differential range
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* AMS1117-3.3 (Advanced Monolithic Systems, Inc.), datasheet Undated DS1117, PDF metadata created 2009-08-28, fitted 2026-08-07
* Archetype: archetype-vreg.md, variant FIXED. Manual staged run: R1R-regulators-2026-08-07
* Node order: IN OUT GND
.subckt OC_AMS1117_3_3 IN OUT GND
+ PARAMS: VREF=3.3 VDROP=1.1 ILIM=1.1 LOADREG=0.0021166444488 DILOAD=0.8
+ LINEREG=0.000500002666454 DVLINE=10.5 VNOM=4.8 IQ=0.005 RNEG=1 EPS=1e-8
BTGT tgt GND V = VREF + (LINEREG/DVLINE)*(v(IN,GND)-VNOM)
BHDR hdr GND V = v(IN,GND) - VDROP
BSEL sel GND V = 0.5*(v(tgt)+v(hdr)) - 0.5*sqrt((v(tgt)-v(hdr))*(v(tgt)-v(hdr))+EPS)
BERR er GND V = 0.5*((v(sel)-v(OUT,GND)) + sqrt((v(sel)-v(OUT,GND))*(v(sel)-v(OUT,GND))+EPS))
RER er GND 1meg
BPASS IN OUT I = ILIM*tanh({DILOAD/LOADREG}/ILIM*v(er))
RSER OUT GND 1e7
DNEG GND OUT DCLAMP_AMS1117_3_3
IQD IN GND DC {IQ}
.model DCLAMP_AMS1117_3_3 D(IS=1e-12 N=1 RS={RNEG})
.ends OC_AMS1117_3_3
.temp 25
VINLO inlo 0 DC 4.8
XLO inlo outlo 0 OC_AMS1117_3_3
ILLO outlo 0 DC 0
VINHI inhi 0 DC 15
XHI inhi outhi 0 OC_AMS1117_3_3
ILHI outhi 0 DC 0
.save v(outlo) v(outhi)
.op
.end
